US06143764
Formic acid (0.13 ml) was added to acetic anhydride (0.27 ml), and the admixture was stirred at 60° C. for 2 hours. A solution of 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (303 mg) in tetrahydrofuran (8 ml) was added to the reaction mixture, and the admixture was stirred at room temperature for 45 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 327 mg of 6,7-dimethoxy-4-(4-formylaminophenoxy)quinoline.

reactant | Formic acid | 0.13 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 0.27 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 303 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 6,7-dimethoxy-4-(4-formylaminophenoxy)quinoline | 327 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC=O | C18H16N2O4
